US06900227B2
Preparation of 2,4-dichlorophenyl-4-fluorophenyl-dichloromethane
From 2,4-dichlorobenzotrifluoride (215 mg, 1 mmol), AlCl3 (400 mg, 3 mmol) and fluorobenzene (96 mg, 1 mmol), light yellow oil (382 mg, 118% crude).

reactant | 2,4-dichlorobenzotrifluoride | 1 mmol, 215 mg | ClC1=C(C=CC(=C1)Cl)C(F)(F)F | C7H3Cl2F3
reactant | AlCl3 | 3 mmol, 400 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | fluorobenzene | 1 mmol, 96 mg | FC1=CC=CC=C1 | C6H5F
product | 2,4-dichlorophenyl-4-fluorophenyl-dichloromethane | ClC1=C(C=CC(=C1)Cl)C(Cl)(Cl)C1=CC=C(C=C1)F | C13H7Cl4F
